US04003699
5-(Ethylamino)-2-methylphenol
88.6 gm of ethyl bromide were added to a solution of 50 gm of 5-amino-2-methylphenol in 250 ml of ethanol; and the mixture was refluxed for four hours. After the solution had cooled, it was diluted with 1.2 liters of water and was made weakly alkaline with sodium carbonate. After repeated extraction with ether, the ether extracts were dried and concentrated. The residue was recrystallized from ethanol, and had a melting point of 128° C to 129° C.

reactant | ethyl bromide | 88.6 gm | C(C)Br | C2H5Br
reactant | 5-amino-2-methylphenol | 50 gm | NC=1C=CC(=C(C1)O)C | C7H9NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | 1.2 liters | O | H2O
product | 5-(Ethylamino)-2-methylphenol | C(C)NC=1C=CC(=C(C1)O)C | C9H13NO
